Name:  ___.            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins / lisinopril
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HPI(4): Ms. ___ is a ___ F w/ remote h/o NHL s/p chemo 
and
stem cell transplant, HTN, HLD, pre-diabetes and asthma p/w 3
days h/o worsening DOE, coughing w/ brownish sputum and related
pain behind her sternum. Coughing has been worse when lying 
down.
Had T 101 a few days ago then resolved. Had headache and light
headedness. Denies abdominal pain, nausea/vomiting, syncope.
Denies weakness/tingling/numbness. Denies pain in legs. She's
been eating less in the past 2 months and lost 20lbs
intentionally. She denies changes in her medication. Her partner
has the same symptoms and was sick in ___. She went to see 
a
doctor yesterday which CXR showed no pneumonia. The patient thus
went to see her doctor on the day of presentaion. The night
before she was so short of breath that she had to use her old
inhaler many times.  Her last long travel was visiting her
parents in ___ in ___. She went to see her
PCP this morning and O2 is 83% with ambulation, 92% with
rest.tachycardic. She was referred to the ED for further CXR/CTA
to r/o pneumonia/PE. 
She does not report, n/v/d/chest pressure or tightness.
ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 
Upon arrival to the ED:
VS 
09:53 |0 |99.3 |104 |147/85 |22 |93% RA 
She received: ipratropium/albuterol/levofloxacin/tylenol
CTA demonstrated bronchopneumonia

 
Past Medical History:
Diffuse large B-cell lymphoma:  
Pt. initially presented last ___ with flank pain.  In ___, pt developed lymphadenopathy.  In ___, pt. discovered to 
have enlarged paraaortic LN, enlarged ovary.  In ___, TAH BSO 
and partial omentectomy performed.
Pathology noted the following: The omental biopsy revealed a 
non-Hodgkin's lymphoma, diffuse large B-cell type, arising in a 
background of follicular lymphoma. Right fallopian tube revealed 
the same and the right ovary revealed the same and this involved 
the myometrium, right fallopian tube and left ovary. The 
atypical lymphoid infiltrate involved the omentum, right ovary, 
right fallopian tube, and myometrium, as well as focally in the 
left ovary. These were LCA positive, CD20 positive with 
coexpression of bcl-2 and bcl-6 and CD10, which is consistent 
with a follicular derivation and mib-1 fraction was 20%. There 
were admixed CD3 and CD5 T- cells, both kappa and lambda 
positive cells were noted, but on flow cytometry, a monoclonal 
lambda B-cell proliferative disorder was appreciated. Overall, 
this was felt to be consistent with diffuse large B-cell 
lymphoma with indications of follicular derivation. 
Pt. has been treated with R-CHOP and high-dose MTX for CNS ppx. 
Has also rec'ed rituxan. Course has been c/b inc. flank pain and 
TLS.
A restaging PET was performed during cycle 2 and revealed that 
most of the previously identified abnormal uptake in the 
cervical, mediastinal, retroperitoneal and inguinal adenopathy 
has resolved completely. Other lymph nodes have decreased in 
avidity. In the chest, there is an ill-defined opacity in the 
medial right lower lobe with an SUV of 4.2 and two tiny foci of 
increased uptake in the hilar region bilaterally, which are new 
in the interval without clearly identifiable nodules on the CT 
scans. A single lesion within the L4 vertebral body has 
increased FDG avidity. 

S/P TAH: ___.
S/P Left ureteral stent placement ___. 
S/P Appendectomy ___.

 
Social History:
___
Family History:
No family history of breast, ovarian, or colon cancer. No family 
history of leukemia, lymphoma. 
 
Physical Exam:
Discharge exam
Desats to high ___ briefly with ambulation, satting well on RA 
at rest (mid ___
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Scattered wheezes, mildly diminished air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs. There is no edema b/l.
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
DATA:
.
Trop-T: <0.01  
.
137  96  9  100   AGap=11 
------------\ 
3.9  30  0.6  
.
HCG:<5 
.
proBNP: 67

CTA:
1. No evidence of pulmonary embolism or aortic abnormality. 
2. Centrilobular nodules with ___ opacities as well as
evidence of 
small airway disease centered predominantly within the right
lower lobe with 
some involvement of the bilateral lung apices are suggestive of 
bronchopneumonia or aspiration. 
.
I personally reviewed the ECG and my interpretation is:
SR at 98 bpm, no acute changes.

Discharge Labs:

___ 05:37AM BLOOD WBC-6.9 RBC-4.29 Hgb-11.8 Hct-37.5 MCV-87 
MCH-27.5 MCHC-31.5* RDW-15.0 RDWSD-48.0* Plt ___
___ 05:37AM BLOOD Glucose-96 UreaN-13 Creat-0.7 Na-141 
K-3.5 Cl-98 HCO3-29 AnGap-14
___ 05:37AM BLOOD Phos-3.8 Mg-1.6
 
Brief Hospital Course:
Ms. ___ is a ___ with PMH of asthma and lymphoma who p/w 
dyspnea on exertion, cough and fevers for three days c/w 
bronchopneumonia and mild asthma exacerbation leading to 
hypoxemic RF. 

ACUTE/ACTIVE PROBLEMS:
#Hypoxemic respiratory failure
#Bronchopneumonia
#Mild asthma attack
Pt was started on azithro/ceftriaxone given bronchopneumonia 
found on CTA (start date ___. Advair could also be given for 
intra-nasal steroids
We did not give her prednisone given that she did not appear 
have a severe acute
flare of asthma. We also avoided FQ because of increased risk of 
tendon rupture with
inhaled corticosteroids. Her sputum culture ultimately grew 
commensal respiratory flora. 
On ___ she was able to be weaned to RA but still required oxygen 
while ambulating as she desatted to 86%. On ___ she briefly 
desatted to high ___ but otherwise maintained in low ___ while 
walking and was asymptomatic. She preferred to go home as her 
partner was leaving for a trip to ___ on the day of discharge.  


CHRONIC/STABLE PROBLEMS:
#PRE-DIABETES MELLITUS - HgbA1C = 6.0
- continued metformin as pt was eating well and not at risk of 
___
- Did not receive much SSI as QID fingersticks showed well 
controlled sugars despite starting prednisone. 
#HLD: continued statin
# DEPRESSION: Continued wellbutrin and lexapro
# HTN: continued chlorthalidone/losartan
# HYPOTHRYOIDISM: Continued LEVOTHYROXINE - levothyroxine 112 
mcg 

OUTSTANDING ISSUES
[ ] Pt endorses history of asthma for which she frequently uses 
a rescue inhaler. She was told to use a long acting ___ 
med in the past but has been nonadherent. She was started on 
Flovent at discharge to use with albuterol prn
[ ] For bronchopneumonia, consider pneumovax at PCP ___. 
Pt discharged to complete 5 day course of antibiotics 
(cefpodoxime and azithromycin). Should also have completed a 5 
day prednisone burst.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 1 PUFF IH Q4H:PRN sob 
2. Atorvastatin 20 mg PO QPM 
3. BuPROPion (Sustained Release) 200 mg PO QAM 
4. Chlorthalidone 12.5 mg PO DAILY 
5. Escitalopram Oxalate 5 mg PO DAILY 
6. estradiol 0.025 mg/24 hr transdermal Q ___ 
7. Levothyroxine Sodium 112 mcg PO DAILY 
8. Losartan Potassium 100 mg PO DAILY 
9. MetFORMIN XR (Glucophage XR) 750 mg PO BID 

 
Discharge Medications:
1.  Azithromycin 250 mg PO DAILY Duration: 4 Doses 
RX *azithromycin 250 mg 1 tablet(s) by mouth once daily Disp #*3 
Tablet Refills:*0 
2.  Cefpodoxime Proxetil 200 mg PO Q12H Duration: 3 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*6 Tablet Refills:*0 
3.  Fluticasone Propionate 110mcg 2 PUFF IH BID asthma 
Please start this medication after finishing your prednisone 
RX *fluticasone [Flovent HFA] 110 mcg/actuation 2 PUFF INH twice 
a day Disp #*1 Inhaler Refills:*5 
4.  PredniSONE 40 mg PO DAILY Duration: 5 Days 
RX *prednisone 20 mg 2 tablet(s) by mouth every morning Disp #*6 
Tablet Refills:*0 
5.  Ramelteon 8 mg PO QHS:PRN insomnia Duration: 3 Days 
Should be given 30 minutes before bedtime 
RX *ramelteon [Rozerem] 8 mg 1 tablet(s) by mouth nightly as 
needed Disp #*3 Tablet Refills:*0 
6.  Albuterol Inhaler 1 PUFF IH Q4H:PRN sob  
7.  Atorvastatin 20 mg PO QPM  
8.  BuPROPion (Sustained Release) 200 mg PO QAM  
9.  Chlorthalidone 12.5 mg PO DAILY  
10.  Escitalopram Oxalate 5 mg PO DAILY  
11.  Estradiol 0.025 mg/24 hr transdermal Q ___  
12.  Levothyroxine Sodium 112 mcg PO DAILY  
13.  Losartan Potassium 100 mg PO DAILY  
14.  MetFORMIN XR (Glucophage XR) 750 mg PO BID 
Do Not Crush  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Bronchopneumonia
Mild asthma attack
 
Discharge Condition:
stable
 
Discharge Instructions:
You were admitted with shortness of breath and cough and found 
to have a pneumonia causing a mild asthma attack. We treated you 
with antibiotics and inhalers and you improved to the point 
where you were able to be off of supplemental oxygen. 
 
Followup Instructions:
___